US05529766
Bis(2-chloromethoxycarbonyloxyethyl)ether
Pyridine (0.89 ml, 11.00 mmol) is added dropwise to a solution of chloromethyl chloroformate (1.32 ml, 14.83 mmol) and diethylene glycol (0.47 ml, 5.00 mmol) in dichloromethane (10 ml) at 7° C. with good stirring under a dry N2 atmosphere. After 10 min. at 7° C. and 6 hours at 20° C. the reaction mixture is transferred to a separating funnel with the aid of dichloromethane (10 ml). The reaction mixture is washed with hydrochloric acid (1.00 M, 10 ml), saturated aqueous sodium hydrogen carbonate (10 ml) and water (10 ml). The organic phase is dried (MgSO4) and the solvent evaporated under reduced pressure (10 mm Hg) to give 1.26 g (86%) title product. 1H NMR (300 MHz, CDCl3): δ 3.72 (m, 2×CH2 --O), 4.34 (m, 2×CH2 --O--C=O), 5.71 (s, 2×Cl--CH2 --O). 13C NMR (75 MHz, CDCl3): δ 67.6 (2×CH2 --O), 68.5 (2×CH2 --O--C=O), 72.1 (2×Cl--CH2 --O), 153.2 (2×C=O).

reactant | Pyridine | 11.00 mmol, 0.89 ml | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl chloroformate | 14.83 mmol, 1.32 ml | ClC(=O)OCCl | C2H2Cl2O2
reactant | diethylene glycol | 5.00 mmol, 0.47 ml | C(COCCO)O | C4H10O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Bis(2-chloromethoxycarbonyloxyethyl)ether | 1.26 g, 86% | ClCOC(=O)OCCOCCOC(=O)OCCl | C8H12Cl2O7
